US05107004
A process for the preparation of 2-neopentylanthraquinone, wherein neopentylbenzene is acylated with phthalic anhydride by a Friedel-Crafts reaction to give 2-(4-neopentylbenzoyl)-benzoic acid and the latter is cyclized in the presence of a strong anhydrous acid to give a composition consisting essentially of 2-neopentylanthraquinone without isomerization or degradation of the neopentyl group taking place.

reactant | 2-neopentylanthraquinone | C(C(C)(C)C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C19H18O2
reactant | neopentylbenzene | C(C(C)(C)C)C1=CC=CC=C1 | C11H16
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
product | 2-(4-neopentylbenzoyl)-benzoic acid | C(C(C)(C)C)C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C19H20O3
